US07176216B2
N-Cyclopropylmethyl-N-[7-iodo-2-(methylsulfanyl)pyrazolo[1,5-a]pyridin-3-yl]-N-tetrahydro-2H-4-pyranylmethylamine
To a solution of N-cyclopropylmethyl-N-[7-iodo-2-(methylsulfanyl)pyrazolo[1,5-a]pyridin-3-yl]amine (70 mg) in tetrahydrofuran (2.5 mL) was added tetrahydropyran-4-carbaldehyde (56 mg) at room temperature, and then sodium triacetoxyborohydride (103 mg) was gradually added. After 1 hour, saturated aqueous sodium bicarbonate was added, extraction was performed with ethyl acetate, the extract was washed with brine and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure to afford a crude product of the title compound (50 mg) as a yellow oil.

reactant | N-cyclopropylmethyl-N-[7-iodo-2-(methylsulfanyl)pyrazolo[1,5-a]pyridin-3-yl]amine | 70 mg | C1(CC1)CNC=1C(=NN2C1C=CC=C2I)SC | C12H14IN3S
reactant | tetrahydropyran-4-carbaldehyde | 56 mg | O1CCC(CC1)C=O | C6H10O2
reactant | sodium triacetoxyborohydride | 103 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 2.5 mL | O1CCCC1 | C4H8O
product | N-Cyclopropylmethyl-N-[7-iodo-2-(methylsulfanyl)pyrazolo[1,5-a]pyridin-3-yl]-N-tetrahydro-2H-4-pyranylmethylamine | 50 mg | C1(CC1)CN(CC1CCOCC1)C=1C(=NN2C1C=CC=C2I)SC | C18H24IN3OS
